US08293911B2
Step B: N-[4-(6-Fluoro-3,4-dihydro-1H-isoquinolin-2-yl)-2,6-dimethylphenyl]-3,3-dimethyl butanamide
Bis(dibenzylidineacetone)palladium (390 mg, 0.68 mmol) and (2′-dicyclohexyl phosphanyl-biphenyl-2-yl)-dimethylamine (800 mg, 2.0 mmol) were added to dry toluene (150 mL purged with argon for 30 minutes) and stirred for 30 minutes under argon. Potassium tert-butoxide (4.75 mg, 42.3 mmol), 6-fluoro-1,2,3,4-tetrahydro-isoquinoline hydrochloride salt (3.2 g, 17.0 mmol), and N-(4-bromo-2,6-dimethyl-phenyl)-3,3-dimethyl-butanamide (5 g, 16.8 mmol) were then added, and the reaction mixture was stirred at 80° C. overnight. The reaction mixture was then cooled to room temperature and recrystallized from toluene to afford the title compound as a solid. (5.11 g, 83%).

reactant | Potassium tert-butoxide | 42.3 mmol, 4.75 mg | CC(C)([O-])C.[K+]
reactant | 6-fluoro-1,2,3,4-tetrahydro-isoquinoline hydrochloride salt | 17.0 mmol, 3.2 g | Cl.FC=1C=C2CCNCC2=CC1
reactant | N-(4-bromo-2,6-dimethyl-phenyl)-3,3-dimethyl-butanamide | 16.8 mmol, 5 g | BrC1=CC(=C(C(=C1)C)NC(CC(C)(C)C)=O)C | C14H20BrNO
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | N-[4-(6-Fluoro-3,4-dihydro-1H-isoquinolin-2-yl)-2,6-dimethylphenyl]-3,3-dimethyl butanamide | FC=1C=C2CCN(CC2=CC1)C1=CC(=C(C(=C1)C)NC(CC(C)(C)C)=O)C | C23H29FN2O
